US07256298B2
To a solution of 19.1 g (purity: 75.0%, 46.3 mmol) of 4-bromomethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole in 30 ml of ethanol was added 3.5 g (46.3 mmol) of thiourea, followed by 1 hour of heating and refluxing under stirring. The solvent was removed by evaporation under reduced pressure and the residue was washed with a mixed solvent of ethyl acetate and n-hexane to obtain 13.8 g (yield: 77.5%) of 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide as white crystals (melting point: 130 to 131° C.).

reactant | 4-bromomethyl-5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole | 46.3 mmol, 19.1 g | BrCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C7H6BrF5N2O
reactant | thiourea | 46.3 mmol, 3.5 g | NC(=S)N | CH4N2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(5-difluoromethoxy-1-methyl-3-trifluoromethyl-1H-pyrazole-4-ylmethyl)-isothiourea hydrobromide | 13.8 g, yield: 77.5% | Br.FC(OC1=C(C(=NN1C)C(F)(F)F)CSC(N)=N)F | InChI=1S/C8H9F5N4OS.BrH/c1-17-5(18-6(9)10)3(2-19-7(14)15)4(16-17)8(11,12)13;/h6H,2H2,1H3,(H3,14,15);1H
